US06906067B2
4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-methyl ester
4-Benzyloxy-pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-methyl ester (500 mg, 1.49 mmol) was taken up in ethyl acetate in a Paar vessel. The solution was flushed with argon and Pd/C (200 mg) was added to the vessel. The argon atmosphere was replaced by hydrogen at 50 psi. The vessel was shaken for 12 h. The hydrogen atmosphere was replaced by argon and the solution was filtered through a celite pad. The pad was washed twice with ethyl acetate. The solvent was removed under reduced pressure. The product was used without further purification. Yield 350.98 mg. C11H19NO5 MS m/e=246.2 (M+H).

reactant | 4-Benzyloxy-pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-methyl ester | 1.49 mmol, 500 mg | COC(=O)C1N(CC(C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)O)C(=O)OC(C)(C)C | C11H19NO5
